US07915281B2
A slurry of 4-chloro-2-ethoxymethyl-1-[2-(3,5,5-trimethyl-1,2,4-oxadiazol-4(5H)-yl)ethyl]-1H-imidazo[4,5-c]quinoline (670 mg, 1.67 mmol) in a solution of 7 M ammonia in methanol (20 mL) was sealed in a pressure vessel and heated to 150° C. After 15 hours, the volatiles were removed under reduced pressure and the residue was partitioned between saturated aqueous sodium bicarbonate and dichloromethane. The aqueous layer was extracted with two additional portions of dichloromethane. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered, and concentrated. The crude product was purified by flash chromatography (silica gel, gradient elution from 97:3 to 95:5 dichloromethane/methanol) to afford 2-ethoxymethyl-1-[2-(3,5,5-trimethyl-1,2,4-oxadiazol-4(5H)-yl)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine (350 mg) as a white solid that was recrystallized from acetonitrile to give white needles, mp 204-205° C.

reactant | 4-chloro-2-ethoxymethyl-1-[2-(3,5,5-trimethyl-1,2,4-oxadiazol-4(5H)-yl)ethyl]-1H-imidazo[4,5-c]quinoline | 1.67 mmol, 670 mg | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCN2C(=NOC2(C)C)C)COCC | C20H24ClN5O2
reactant | ammonia | 7 M | N | H3N
solvent | methanol | 20 mL | CO | CH4O
product | 2-ethoxymethyl-1-[2-(3,5,5-trimethyl-1,2,4-oxadiazol-4(5H)-yl)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine | 350 mg | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCN1C(=NOC1(C)C)C | C20H26N6O2
